US06043248
In a manner similar to the procedure described for the preparation of 4-cyano-2-hydroxymethylpyridine, 4-(4-morpholinyl)methylpyridine (9.15 g, 51.40 mmol), ammonium persulfate (23.44 g, 102.81 mmol, 2.0 equiv.), methanol (92 ml), water (46 ml) and concentrated H2SO4 (11.59 g, 118.2 mmol, 2.3 equiv.) provided 2.29 g (21%) of 2-hydroxymethyl-4-(4-morpholinyl)methylpyridine.

reactant | 4-cyano-2-hydroxymethylpyridine | C(#N)C1=CC(=NC=C1)CO | C7H6N2O
reactant | 4-(4-morpholinyl)methylpyridine | 51.40 mmol, 9.15 g | N1(CCOCC1)CC1=CC=NC=C1 | C10H14N2O
reactant | ammonium persulfate | 102.81 mmol, 23.44 g, 2.0 equiv. | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | H2SO4 | 118.2 mmol, 11.59 g, 2.3 equiv. | OS(=O)(=O)O | H2O4S
solvent | water | 46 ml | O | H2O
solvent | methanol | 92 ml | CO | CH4O
product | 2-hydroxymethyl-4-(4-morpholinyl)methylpyridine | 2.29 g, 21% | OCC1=NC=CC(=C1)CN1CCOCC1 | C11H16N2O2
